US05578593
N-[1(R)-[spiro[1H-indene-1,4'-piperidin]-1'-yl-carbonyl]-2-(1H-indol-3-yl)ethyl]carbamic benzyl ester
To a solution of N-benzyloxycarbonyl-(D)-tryptophan (1.69 g, 5.0 mmole) in 70 mL of chloroform at room temperature was added spiro[1H-indene-1,4'-piperidine]hydrochloride (J. Med. Chem. 1992, 35, 2033)(1.21 g, 5.5 mmole), triethylamine (0.73 mL, 5.25 mmole) followed by 1-hydroxybenzotriazole hydrate (0.74 g, 5.5 mmole) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.05 g, 5.5 mmole). After 12 hours at room temperature, the mixture was diluted with methylene chloride and then washed sequentially with water and brine. The organic layer was dried over sodium sulfate, filtered and concentrated. The residue was purified by chromatatron (hexanes/ethyl acetate=1/1) to give 2.01 g (79%) of the title compound.

reactant | N-benzyloxycarbonyl-(D)-tryptophan | 5.0 mmole, 1.69 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C19H18N2O4
reactant | spiro[1H-indene-1,4'-piperidine]hydrochloride | 5.5 mmole, 1.21 g | Cl.N1CCC2(CC1)C=CC1=CC=CC=C12
reactant | triethylamine | 5.25 mmole, 0.73 mL | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole hydrate | 5.5 mmole, 0.74 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.5 mmole, 1.05 g | Cl.CN(CCCN=C=NCC)C
solvent | chloroform | 70 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[1(R)-[spiro[1H-indene-1,4'-piperidin]-1'-yl-carbonyl]-2-(1H-indol-3-yl)ethyl]carbamic benzyl ester | 2.01 g, 79% | C(C1=CC=CC=C1)OC(N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N1CCC2(CC1)C=CC1=CC=CC=C12)=O | C32H31N3O3
